US08420823B2
N-[4-(methylthio)phenyl]-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 73 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 4-methylthioaniline as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 4-methylthioaniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | N-[4-(methylthio)phenyl]-3-(piperidin-1-ylsulfonyl)benzamide | CSC1=CC=C(C=C1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C19H22N2O3S2
